US08865918B2
N,N-bis(2,2,2-trifluoroethyl)-3-methyl-4-nitroaniline (Compound 101, Structure 2 of Scheme I, where R1=NO2, R2=CH3, R3=R4=R5=R6=R7=R10=R11=H R8=R9=CF3)
3-Methyl-4-nitroaniline 3.9 g (25 mmol) was dissolved in 100 mL of trifluoroacetic acid with stirring under N2 at 60° C. Next, sodium borohydride pellets (14 g, 15 eq.) were added portionwise. Ten minutes after the addition of the pellets, the reaction was heated to 90° C. After 12 h at 90° C., the reaction was cooled, added slowly to water, and then filtered. The resulting solid filtrate was washed first with water and then with hexanes and was then dried. This procedure resulted in 6.6 g (82% yield) of a light yellow powder. Data for compound 101: 1H-NMR (CDCl3, 500 MHz) 8.10 (d, 1H, J=9.3 Hz), 6.78 (dd, 1H, J=9.3 and 2.9 Hz), 6.72 (d, 1H, J=2.9 Hz), 4.13 (q, 4H, J=8.4 Hz), 2.66 (s, 3H).

reactant | 3-Methyl-4-nitroaniline | 25 mmol, 3.9 g | CC=1C=C(N)C=CC1[N+](=O)[O-] | C7H8N2O2
reactant | sodium borohydride | [BH4-].[Na+]
reactant | water | O | H2O
reactant | trifluoroacetic acid | 100 mL | FC(C(=O)O)(F)F | C2HF3O2
product | N,N-bis(2,2,2-trifluoroethyl)-3-methyl-4-nitroaniline | 6.6 g, 82% yield | FC(CN(C1=CC(=C(C=C1)[N+](=O)[O-])C)CC(F)(F)F)(F)F | C11H10F6N2O2
